US04873244
Ethyl 6-chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline-3-carboxylate (2.27g,7.4mmol) in a mixture of 50ml of ethanol, 25ml of water and 4.6ml of 4M aquous sodium hydroxide was refluxed for 1h. Then the mixture was cooled to 0° C. and neutralized by addition of 4.6ml of 4M hydrochloric acid. The precipitate was filtered off, rinsed with water and dried to give 2.lg (100%) of 6-chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1.5-a)quinazoline- 3-carboxylic acid.

reactant | Ethyl 6-chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1,5-a)quinazoline-3-carboxylate | 7.4mmol, 2.27g | ClC1=C2C(N(C=3N(C2=CC=C1)C=NC3C(=O)OCC)C)=O | C14H12ClN3O3
reactant | water | 25ml | O | H2O
reactant | sodium hydroxide | 4M, 4.6ml | [OH-].[Na+]
reactant | hydrochloric acid | 4M, 4.6ml | Cl | ClH
solvent | ethanol | 50ml | C(C)O | C2H6O
product | 6-chloro-4,5-dihydro-4-methyl-5-oxo-imidazo(1.5-a)quinazoline- 3-carboxylic acid | 100% | ClC1=C2C(N(C=3N(C2=CC=C1)C=NC3C(=O)O)C)=O | C12H8ClN3O3
